US05041641
To a vigorously stirred mixture of 9.05 g of (+)-2-(pentafluorophenyl)-1-propanol, 25 ml of acetone and 100 ml of 3N sulfuric acid, was added portionwise 12.6 g of potassium permanganate over six hours. After the mixture was further stirred for 30 minutes, this reaction mixture was poured into 150 ml of an aqueous solution of 15% sodium bisulfite, and extracted with ethyl acetate. The organic layer was extracted with an aqueous solution of 5% potassium carbonate. This aqueous layer was acidified with concentrated hydrochloric acid followed by extraction with ethyl acetate. This extracted solution was then dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the subsequent distillation under reduced pressure gave 8.23 g of (-)-2-(pentafluorophenyl)propionic acid having the aforementioned physical properties.

reactant | (+)-2-(pentafluorophenyl)-1-propanol | 9.05 g | FC1=C(C(=C(C(=C1C(CO)C)F)F)F)F | C9H7F5O
reactant | sulfuric acid | 3N, 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium permanganate | 12.6 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | (-)-2-(pentafluorophenyl)propionic acid | 8.23 g | FC1=C(C(=C(C(=C1C(C(=O)O)C)F)F)F)F | C9H5F5O2
